US07084160B2
N-Cyclopropyl-2,4-difluoro-5-{[2-(pyridin-2-ylamino)-thiazol-5-ylmethyl]-amino}-benzamide
A mixture of 2-[pyridin-2-ylamino]-thiazole-5-carbaldehyde (41.0 mg, 0.2 mmol) and 5-amino-N-cyclopropyl-2,4-difluorobenzamide (46.6 mg, 0.22 mmol) in TFA/DCM (1:1, 1 mL) was stirred at RT for 10 min and triethylsilane (0.1 mL) was added. The mixture was stirred for 1 h, then concentrated and the residue was neutralized with NaHCO3 solution and the precipitates occurred. The precipitates were collected, washed with water and dried. The solid was triturated with MeOH and filtered to afford the title compound as a grayish solid (38 mg, 47%). Small amount of solid was boiled in methanol, the mixture was cooled to RT and filtered to afford a white solid. MS m/z 402 (M+H)+. 1H NMR (DMSO-d6) δ 8.23 (d, 1H, J=4.0 Hz), 8.15 (s, 1 H), 7.65 (t, 1 H, J=7.15 Hz), 7.26 (s, 1 H), 7.16 (m, 1 H), 7.01 (d, 1 H, J=8.75 Hz), 6.95 (m, 1 H), 6.89 (t, 1 H, J=7.15 Hz), 6.12 (s 1 H), 4.43 (m, 2 H), 2.79 (m, 1 H), 0.69 (m, 2 H), 0.51 (m, 2 H).

reactant | 2-[pyridin-2-ylamino]-thiazole-5-carbaldehyde | 0.2 mmol, 41.0 mg | N1=C(C=CC=C1)NC=1SC(=CN1)C=O | C9H7N3OS
reactant | 5-amino-N-cyclopropyl-2,4-difluorobenzamide | 0.22 mmol, 46.6 mg | NC=1C(=CC(=C(C(=O)NC2CC2)C1)F)F | C10H10F2N2O
reactant | triethylsilane | 0.1 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA DCM | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-Cyclopropyl-2,4-difluoro-5-{[2-(pyridin-2-ylamino)-thiazol-5-ylmethyl]-amino}-benzamide | 38 mg, 47% | C1(CC1)NC(C1=C(C=C(C(=C1)NCC1=CN=C(S1)NC1=NC=CC=C1)F)F)=O | C19H17F2N5OS
